US08669380B2
(1S,2S,3S,4R,5S)-5-{4-Chloro-3-[4-(2-hydroxy-ethoxy)-benzyl]-phenyl}-1-hydroxymethyl-6,8-dioxa-bicyclo[3.2.1]octane-2,3,4-triol
To a solution of intermediate (1S,2S,3S,4R,5S)-5-(3-(4-(2-(Benzyloxy)ethoxy)benzyl)-4-chlorophenyl)-1-(hydroxymethyl)-6,8-dioxabicyclo[3.2.1]octane-2,3,4-triol (4 mg, 0.007 mmol) in a mixture of ethanol and tetrahydrofurane (1 mL, 4 to 1 in volume) was successively added formic acid (12 microL, 0.30 mmol) and palladium black (7.5 mg, 0.07 mmol). The reaction mixture was stirred at room temperature for 2 hours, the palladium was filtered through a pad of Celite®, the filtrate was evaporated and the residue was dried under high vacuum to afford 2.6 mg (80% yield) of the desired product. LCMS 453.5 (M+H+; positive mode). 1H NMR (500 MHz, METHANOL-d4) delta ppm 3.56 (d, J=7.8 Hz, 1 H), 3.58-3.72 (m, 4 H), 3.79 (d, J=7.8 Hz, 1 H), 3.82-3.88 (m, 2 H), 4.02 (t, J=4.9 Hz, 2 H), 4.05 (s, 2 H), 4.16 (d, J=7.6 Hz, 1 H), 6.84-6.89 (m, 2 H), 7.11 (d, J=8.5 Hz, 2H), 7.35-7.42 (m, 2 H), 7.47 (d, J=2.0 Hz, 1 H).

reactant | (1S,2S,3S,4R,5S)-5-(3-(4-(2-(Benzyloxy)ethoxy)benzyl)-4-chlorophenyl)-1-(hydroxymethyl)-6,8-dioxabicyclo[3.2.1]octane-2,3,4-triol | 0.007 mmol, 4 mg | C(C1=CC=CC=C1)OCCOC1=CC=C(CC=2C=C(C=CC2Cl)[C@]23[C@@H]([C@H]([C@@H]([C@](CO2)(O3)CO)O)O)O)C=C1 | C29H31ClO8
reactant | formic acid | 0.30 mmol | C(=O)O | CH2O2
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofurane | 1 mL | O1CCCC1 | C4H8O
catalyst | palladium black | 0.07 mmol, 7.5 mg | [Pd] | Pd
product | (1S,2S,3S,4R,5S)-5-{4-Chloro-3-[4-(2-hydroxy-ethoxy)-benzyl]-phenyl}-1-hydroxymethyl-6,8-dioxa-bicyclo[3.2.1]octane-2,3,4-triol | 2.6 mg, 80% yield | ClC1=C(C=C(C=C1)[C@]12[C@@H]([C@H]([C@@H]([C@](CO1)(O2)CO)O)O)O)CC2=CC=C(C=C2)OCCO | C22H25ClO8
